.subckt 1B4B42 4 2 3 1
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d4 2 3 d1
.MODEL D1 D  tt=8.87u cjo=47p
+ IS=6.543e-005 N=4.386e+000 RS=4.150e-002
+ BV=150
+ EG=1.11 XTI=3
+ FC=5.000e-001 
.ends 1B4B42

*
.subckt 1G4B42 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d4 2 3 d1
.MODEL D1 D  tt=8.87u cjo=47p
+ IS=6.543e-005 N=4.386e+000 RS=4.150e-002
+ BV=150
+ EG=1.11 XTI=3
+ FC=5.000e-001 
.ends 1G4B42


.subckt 1J4B42 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d4 2 3 d1
.MODEL D1 D  tt=8.87u cjo=47p
+ IS=6.543e-005 N=4.386e+000 RS=4.150e-002
+ BV=150
+ EG=1.11
+ FC=5.000e-001
.ends 1J4B42

.SUBCKT BAT15_099R 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d4 2 3 d1
.MODEL d1 D(Is=150n N=1.04 Rs=2.6 Xti=1.8 Eg=.68 Cjo=365f M=.061
+ Vj=.12 Fc=.5 Bv=4 Ibv=10u Tt=25p)
.ENDS

.SUBCKT D15XB60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d4 4 2 d1
.MODEL D1 D
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS


.SUBCKT D2SB60 1 2 3 4
Dd1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL D1 D
+ IS=939.00E-12
+ N=1.6000
+ RS=11.900E-3
+ IKF=1.7400
+ CJO=79.200E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=9.2E-6
.ENDS

.SUBCKT D2SBA60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL D1 D
+ IS=595.00E-12
+ N=1.6000
+ RS=18.700E-3
+ IKF=1.1600
+ CJO=51.10E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=7.1E-6
.ENDS


.SUBCKT GSIB1580-E3/45 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.model legd d is = 3.43009E-009 n = 1.58383 rs = 0.00845831
+ eg = 1.11 xti = 3 tnom = 27
+ cjo = 1.42286E-010 vj = 2.45434 m = 0.327271 fc = 0.5
+ tt = 2.88539E-006 bv = 880 ibv = 0.01 af = 1 kf = 0
.ends

.SUBCKT D3SB60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL D1 D
+ IS=1.3550E-9
+ N=1.6000
+ RS=8.2500E-3
+ IKF=2.4200
+ CJO=112.60E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=11.1E-6
.ENDS

.SUBCKT D3SBA60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL D1 D
+ IS=939.00E-12
+ N=1.6000
+ RS=11.900E-3
+ IKF=1.7400
+ CJO=79.200E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=9.2E-6
.ENDS

.SUBCKT D5SB60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL D1 D
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS

.SUBCKT D5SBA60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL D1 D
+ IS=1.3550E-9
+ N=1.6000
+ RS=8.2500E-3
+ IKF=2.4200
+ CJO=112.60E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=11.1E-6
.ENDS

.subckt DF06M 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.MODEL LEGD D (  AF=1 BV=660 CJO=4.78717E-011 EG=1.16369 FC=0.5 IBV=0.01
+ IBVL=0 IKF=0 IS=6.63434E-009 ISR=0 KF=0 M=0.466902 N=1.80776 NBV=1 NBVL=1
+ NR=2  RS=0.0620708 TBV1=0 TBV2=0 TIKF=0 TRS1=0 TRS2=0 TT=2.88539E-006
+ VJ=1.58152 XTI=0.5)
.ends

.subckt DF10SA 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.MODEL LEGD D (  AF=1 BV=1100 CJO=1.77328E-011 EG=1.11 FC=0.5 IBV=0.05
+ IBVL=0 IKF=0 IS=3.13961E-007 ISR=0 KF=0 M=0.24 N=2.2943 NBV=1 NBVL=1 NR=2
+  RS=0.0350918 TBV1=0 TBV2=0 TIKF=0 TRS1=0 TRS2=0 TT=2.88539E-006
+ VJ=0.464053 XTI=3)
.ends

.subckt DF1510S 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.MODEL LEGD D (  AF=1 BV=1100 CJO=8.20252E-011 EG=1.11 FC=0.5 IBV=0.05
+ IBVL=0 IKF=0 IS=3.25763E-007 ISR=0 KF=0 M=0.424464 N=2.3017 NBV=1 NBVL=1 NR=2
+  RS=0.0343186 TBV1=0 TBV2=0 TIKF=0 TRS1=0 TRS2=0 TT=2.88539E-006
+ VJ=0.300103 XTI=3)
.ends

*.SUBCKT DF5VD60 1 2 3
*D1 2 1 DF5VD60A
*D2 3 2 DF5VD60A
*.MODEL DF5VD60A D
*+ IS=2.0260E-9
*+ N=1.6000
*+ RS=5.5200E-3
*+ IKF=3.4700
*+ CJO=165.80E-12
*+ M=.3231
*+ VJ=.525
*+ BV=600
*+ IBV=10.000E-6
*+ TT=13.5E-6
*.ENDS

.SUBCKT EDF1DS 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.MODEL LEGD D (  AF=1 BV=200 CJO=2.56888E-011 EG=1.11 FC=0.5 IBV=0.051
+ IBVL=0 IKF=0 IS=6.54402E-006 ISR=0 KF=0 M=0.318123 N=2.79694 NBV=1 NBVL=1
+ NR=2  RS=0.0181614 TBV1=0 TBV2=0 TIKF=0 TRS1=0 TRS2=0 TT=1.23315E-007
+ VJ=2.08839 XTI=3)
.ENDS

.subckt G2SB80 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.MODEL LEGD D (  AF=1 BV=880 CJO=6.80513E-011 EG=1.11 FC=0.5 IBV=0.01
+ IBVL=0 IKF=0 IS=4.4616E-009 ISR=0 KF=0 M=0.333526 N=1.75401 NBV=1 NBVL=1 NR=2
+  RS=0.0215588 T_MEASURED=27 TBV1=0 TBV2=0 TIKF=0 TRS1=0 TRS2=0
+ TT=2.88539E-006 VJ=0.25 XTI=3)
.ends

.SUBCKT G3SBA60 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.MODEL LEGD D ( AF=1 BV=600 CJO=1.07747E-010 EG=1.11 FC=0.5 IBV=0.0004
+ IBVL=0 IKF=0 IS=1.22106E-008 ISR=0 KF=0 M=0.304622 N=1.796 NBV=1 NBVL=1 NR=2
+  RS=0.0138402 TBV1=0 TBV2=0 TIKF=0 TRS1=0 TRS2=0 TT=2.88539E-006 VJ=0.21
+ XTI=3)
.ends

.subckt GBPC3506 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.MODEL LEGD D (  AF=1 BV=660 CJO=4.34889E-010 EG=1.11 FC=0.5 IBV=0.05
+ IBVL=0 IKF=0 IS=5.48021E-007 ISR=0 KF=0 M=0.553988 N=2.2 NBV=1 NBVL=1 NR=2
+  RS=0.00444765 TBV1=0 TBV2=0 TIKF=0 TRS1=0 TRS2=0 TT=2.88539E-006
+ VJ=3.48892 XTI=3)
.ends

.subckt GBU4G 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.MODEL LEGD D (  AF=1 BV=440 CJO=2.8562E-010 EG=1.11 FC=0.5 IBV=0.05
+ IBVL=0 IKF=0 IS=2.46092E-006 ISR=0 KF=0 M=0.332534 N=2.62593 NBV=1 NBVL=1
+ NR=2  RS=0.00370811 T_MEASURED=27 TBV1=0 TBV2=0 TIKF=0 TRS1=0 TRS2=0
+ TT=2.88539E-006 VJ=0.25 XTI=3)
.ends

.subckt GBU4M 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.MODEL LEGD D (  AF=1 BV=1100 CJO=1.0699E-010 EG=1.11 FC=0.5 IBV=0.02
+ IBVL=0 IKF=0 IS=2.95053E-007 ISR=0 KF=0 M=0.307724 N=2.19609 NBV=1 NBVL=1
+ NR=2  RS=0.00515037 T_MEASURED=27 TBV1=0 TBV2=0 TIKF=0 TRS1=0 TRS2=0
+ TT=2.88539E-006 VJ=0.694004 XTI=3)
.ends

.subckt GBU6G 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.MODEL LEGD D (  AF=1 BV=440 CJO=3.90022E-010 EG=1.11 FC=0.5 IBV=0.01
+ IBVL=0 IKF=0 IS=2.1436E-007 ISR=0 KF=0 M=0.3 N=2.00256 NBV=1 NBVL=1 NR=2 RL=0
+ RS=0.00511828 T_MEASURED=27 TBV1=0 TBV2=0 TIKF=0 TRS1=0 TRS2=0
+ TT=2.88539E-006 VJ=1.04449 XTI=3)
.ends

.subckt GBU6M 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.MODEL LEGD D (  AF=1 BV=1100 CJO=2.0401E-010 EG=1.11 FC=0.5 IBV=0.01
+ IBVL=0 IKF=0 IS=2.1436E-007 ISR=0 KF=0 M=0.3 N=2.00538 NBV=1 NBVL=1 NR=2 RL=0
+ RS=0.00509617 T_MEASURED=27 TBV1=0 TBV2=0 TIKF=0 TRS1=0 TRS2=0
+ TT=2.88539E-006 VJ=0.292184 XTI=3)
.ends

.subckt GSIB1580 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.MODEL LEGD D (  AF=1 BV=880 CJO=1.42286E-010 EG=1.11 FC=0.5 IBV=0.01
+ IBVL=0 IKF=0 IS=3.43009E-009 ISR=0 KF=0 M=0.327271 N=1.58383 NBV=1 NBVL=1
+ NR=2  RS=0.00845831 T_MEASURED=27 TBV1=0 TBV2=0 TIKF=0 TRS1=0 TRS2=0
+ TT=2.88539E-006 VJ=2.45434 XTI=3)
.ends

.SUBCKT MB6S 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.MODEL LEGD D (  AF=1 BV=600 CJO=2.36617E-011 EG=1.02043 FC=0.5
+ IBV=0.0022 IBVL=0 IKF=0 IS=8.70529E-008 ISR=0 KF=0 M=0.324665 N=2.15337 NBV=1
+ NBVL=1 NR=2  RS=0.0464093 TBV1=0 TBV2=0 TIKF=0 TRS1=0 TRS2=0
+ TT=2.88539E-006 VJ=0.866392 XTI=3.0254)
.ENDS

.SUBCKT MDA2500 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 4.395e-10
+ VJ = 0.5688
+ TT = 5e-09
+ M = 0.4287
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

*.SUBCKT MDA2501 1 2 3 4
.SUBCKT MDA2501 1 2  3 4
*
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d4 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 4.395e-10
+ VJ = 0.5688
+ TT = 5e-09
+ M = 0.4287
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA2502 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 4.395e-10
+ VJ = 0.5688
+ TT = 5e-09
+ M = 0.4287
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA2504 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 4.395e-10
+ VJ = 0.5688
+ TT = 5e-09
+ M = 0.4287
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA2506 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 4.395e-10
+ VJ = 0.5688
+ TT = 5e-09
+ M = 0.4287
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA3500 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 4.395e-10
+ VJ = 0.5688
+ TT = 5e-09
+ M = 0.4287
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA3501 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 4.395e-10
+ VJ = 0.5688
+ TT = 5e-09
+ M = 0.4287
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA3502 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 4.395e-10
+ VJ = 0.5688
+ TT = 5e-09
+ M = 0.4287
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA3504 1 2 3 4
Dd1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 4.395e-10
+ VJ = 0.5688
+ TT = 5e-09
+ M = 0.4287
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA3506 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 4.395e-10
+ VJ = 0.5688
+ TT = 5e-09
+ M = 0.4287
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA3508 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 4.395e-10
+ VJ = 0.5688
+ TT = 5e-09
+ M = 0.4287
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA3510 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 4.395e-10
+ VJ = 0.5688
+ TT = 5e-09
+ M = 0.4287
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA3550 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 4.395e-10
+ VJ = 0.5688
+ TT = 5e-09
+ M = 0.4287
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA3551 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 4.395e-10
+ VJ = 0.5688
+ TT = 5e-09
+ M = 0.4287
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA920A1 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 5.89e-08
+ RS = 0.01669
+ CJO = 5.951e-11
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.4224
+ BV = 100
+ N = 2
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA920A2 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 5.865e-08
+ RS = 0.01669
+ CJO = 5.95e-11
+ VJ = 0.3909
+ TT = 5e-09
+ M = 0.4225
+ BV = 100
+ N = 2
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA920A3 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 5.89e-08
+ RS = 0.01669
+ CJO = 5.951e-11
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.4224
+ BV = 100
+ N = 2
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA920A4 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 5.89e-08
+ RS = 0.01669
+ CJO = 5.951e-11
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.4225
+ BV = 100
+ N = 2
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA920A5 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 5.89e-08
+ RS = 0.01669
+ CJO = 5.951e-11
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.4223
+ BV = 100
+ N = 2
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA920A6 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 5.89e-08
+ RS = 0.01669
+ CJO = 5.951e-11
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.4224
+ BV = 100
+ N = 2
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA920A7 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 5.89e-08
+ RS = 0.01669
+ CJO = 5.951e-11
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.4225
+ BV = 100
+ N = 2
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA920A8 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 5.89e-08
+ RS = 0.01669
+ CJO = 5.951e-11
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.4223
+ BV = 100
+ N = 2
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA920A9 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 5.89e-08
+ RS = 0.01669
+ CJO = 5.951e-11
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.4224
+ BV = 100
+ N = 2
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA970A1 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.921e-08
+ RS = 0.001885
+ CJO = 1.978e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.8182
+ BV = 100
+ N = 1.81
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA970A2 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.827e-08
+ RS = 0.001886
+ CJO = 1.98e-09
+ VJ = 0.3906
+ TT = 5e-09
+ M = 0.8191
+ BV = 100
+ N = 1.809
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA970A3 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.921e-08
+ RS = 0.001885
+ CJO = 1.978e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.8182
+ BV = 100
+ N = 1.81
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA970A5 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.827e-08
+ RS = 0.001886
+ CJO = 1.98e-09
+ VJ = 0.3906
+ TT = 5e-09
+ M = 0.8191
+ BV = 100
+ N = 1.809
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA970A6 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.957e-08
+ RS = 0.001885
+ CJO = 1.975e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.8174
+ BV = 100
+ N = 1.811
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA980-1 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 1.978e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.8182
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA980-2 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 1.98e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.819
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA980-3 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 1.978e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.8182
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA980-4 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 1.98e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.819
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA980-5 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 1.978e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.8182
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA980-6 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 1.98e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.819
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA990-1 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 1.978e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.8182
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA990-2 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 1.98e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.819
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA990-3 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 1.978e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.8182
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA990-4 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 1.98e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.819
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA990-5 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 1.978e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.8182
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT MDA990-6 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS = 9.206e-11
+ RS = 0.001927
+ CJO = 1.98e-09
+ VJ = 0.3905
+ TT = 5e-09
+ M = 0.819
+ BV = 100
+ N = 1.24
+ EG = 1.11
+ XTI = 3
+ KF = 0
+ AF = 1
+ FC = 0.5
+ IBV = 0.0001
+ TNOM = 27
+ )
.ENDS

.SUBCKT RMB4S 1 2 3 4
d1 1 2 legd
d2 4 3 legd
d3 1 4 legd
d4 2 3 legd
.MODEL LEGD D (  AF=1 BV=400 CJO=2.36026E-011 EG=1.25942 FC=0.5 IBV=0.051
+ IBVL=0 IKF=0 IS=3.26666E-006 ISR=0 KF=0 M=0.325255 N=3.13486 NBV=1 NBVL=1
+ NR=2  RS=0.0671315 TBV1=0 TBV2=0 TIKF=0 TRS1=0 TRS2=0 TT=3.69946E-007
+ VJ=0.847059 XTI=3.09297)
.ENDS

.SUBCKT S10VB60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS

.SUBCKT S10WB60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS

.SUBCKT S15VB60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS=2.4120E-9
+ N=1.6000
+ RS=4.6300E-3
+ IKF=4.0500
+ CJO=196.00E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=14.8E-6
.ENDS

.SUBCKT S20WB60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS=7.3660E-9
+ N=1.6000
+ RS=1.5200E-3
+ IKF=10.980
+ CJO=573.10E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=27.4E-6
.ENDS

.SUBCKT S25VB60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS=7.3660E-9
+ N=1.6000
+ RS=1.5200E-3
+ IKF=10.980
+ CJO=573.10E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=27.4E-6
.ENDS

.SUBCKT S2VB60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS=333.00E-12
+ N=1.6000
+ RS=33.500E-3
+ IKF=.69
+ CJO=23.900E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=4.9E-6
.ENDS

.SUBCKT S3WB60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS=1.3550E-9
+ N=1.6000
+ RS=8.2500E-3
+ IKF=2.4200
+ CJO=112.60E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=11.1E-6
.ENDS

.SUBCKT S50VB60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS=7.3660E-9
+ N=1.6000
+ RS=1.5200E-3
+ IKF=10.980
+ CJO=573.10E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=27.4E-6
.ENDS

.SUBCKT S5VB60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS

.SUBCKT U4SB60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS=1.3550E-9
+ N=1.6000
+ RS=8.2500E-3
+ IKF=2.4200
+ CJO=112.60E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=11.1E-6
.ENDS

.SUBCKT U4SBA60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS=939.00E-12
+ N=1.6000
+ RS=11.900E-3
+ IKF=1.7400
+ CJO=79.200E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=9.2E-6
.ENDS

.SUBCKT U6SB60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS

.SUBCKT U6SBA60 1 2 3 4
d1 1 2 d1
d2 4 3 d1
d3 1 4 d1
d3 2 3 d1
.MODEL d1 D (
+ IS=1.3550E-9
+ N=1.6000
+ RS=8.2500E-3
+ IKF=2.4200
+ CJO=112.60E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=11.1E-6
.ENDS